US05082951
To a solution of 2-benzoyl-[3-bromo-3,3-di(ethoxycarbonyl)propyl]pyrrole (436 mg, 1.0 mmol) in benzene (20 mL) was added triethylborane (1.0M in hexane, 5 mL, 5 mmol). The reaction mixture was stirred in an open vessel for one hour. Additional triethylborane (1 mL, 1 mmol) was added and the reaction was allowed to stir in an open vessel for an additional hour. The reaction mixture was poured into water and extracted with diethyl ether. The combined organic layers were washed with saturated aqueous sodium chloride, dried (Na2SO4), and concentrated under reduced pressure. The residue was purified by chromatography on silica gel eluting with hexane/ethyl acetate (85:15) to provide 266 mg (75%) of diethyl 5-benzoyl-2,3-dihydro-1H-pyrrolizine-1,1-dicarboxylate.

reactant | 2-benzoyl-[3-bromo-3,3-di(ethoxycarbonyl)propyl]pyrrole | 1.0 mmol, 436 mg | C(C1=CC=CC=C1)(=O)C=1NC=CC1CCC(C(=O)OCC)(C(=O)OCC)Br | C20H22BrNO5
reactant | triethylborane | 5 mmol, 1.0M, 5 mL | C(C)B(CC)CC | C6H15B
reactant | triethylborane | 1 mmol, 1 mL | C(C)B(CC)CC | C6H15B
reactant | water | O | H2O
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | diethyl 5-benzoyl-2,3-dihydro-1H-pyrrolizine-1,1-dicarboxylate | 266 mg, 75% | C(C1=CC=CC=C1)(=O)C=1N2CCC(C2=CC1)(C(=O)OCC)C(=O)OCC | C20H21NO5
